US08232287B2
1-methylcyclopentyl 4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidine-1-carboxylate (exemplary compound No: 16)
Potassium carbonate (153 mg, 1.11 mmol) and the imidazole compound (129 mg, 0.665 mmol) were added to a dioxane (10 mL) solution of the 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline (82.9 mg, 0.222 mmol) produced in Reference Example 28, and the mixture was heated to reflux for 8 hours. To the reaction solution, a saturated aqueous solution of ammonium chloride was added, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-3:2, V/V) to obtain the title compound as white powder (46.8 mg, yield: 42%).

reactant | Potassium carbonate | 1.11 mmol, 153 mg | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 0.665 mmol, 129 mg | N1C=NC=C1 | C3H4N2
reactant | 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline | 0.222 mmol, 82.9 mg | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=NC=NC(=C1)OC1CCNCC1 | C18H22N4O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-methylcyclopentyl 4-({6-[5-(methylsulfonyl)indolin-1-yl]pyrimidin-4-yl}oxy)piperidine-1-carboxylate | 46.8 mg, yield: 42% | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=CC(=NC=N1)OC1CCN(CC1)C(=O)OC1(CCCC1)C | C25H32N4O5S
